US07208494B2
b) (4R,9aR)-6-(1-(R)-Methoxy-ethyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
To a solution of 0.75 g (2.25 mmol) (4R,9aR)-6-(1-(R)-hydroxy-ethyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 5 mL N,N-dimethylformamide 0.12 g (2.70 mmol) sodium hydride (55–65% dispersion in oil) was added. After 30 min., 0.28 mL (0.64 g, 4.50 mmol) methyl iodide was added and the reaction mixture was stirred at 50 deg C. for 2 h. After cooling down to room temperature, the reaction mixture was poured into 10% aqueous ammonium chloride solution and extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was purified by column chromatography on silica gel (0.032–0.063 mm) with ethyl acetate:n-heptane (1:2) as eluant.

reactant | (4R,9aR)-6-(1-(R)-hydroxy-ethyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 2.25 mmol, 0.75 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)[C@@H](C)O | C18H27N3O3
reactant | N,N-dimethylformamide | 2.70 mmol, 5 mL, 0.12 g | CN(C=O)C | C3H7NO
reactant | methyl iodide | 4.50 mmol, 0.28 mL, 0.64 g | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
product | (4R,9aR)-6-(1-(R)-Methoxy-ethyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)[C@@H](C)OC | C19H29N3O3
